US06878728B1
(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-1-(4-{[(dimethylamino)carbonyl]oxy}benzyl)-2-hydroxypropylcarbamate (311)
To a solution of 4-{(2S,3R)-2-({[(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yloxy]carbonyl}amino)-4-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-3-hydroxybutyl}phenyl 4-nitrophenyl carbonate (60 mg) in tetrahydrofuran (0.5 mL) was added 2M dimethylamine/tetrahydrofuran (0.5 mL) and the mixture was stirred at ambient temperature for 30 min. Ethyl acetate was added and the mixture was washed with saturated sodium bicarbonate/water (4×), dried (sodium sulfate), evaporated, and purified by chromatography (silica gel, hexanes/ethyl acetate, 3:7) to provide the title compound as a solid foam. 1H NMR (DMSO-d6): δ 0.76 (3H, d), 0.82 (3H, d), 1.1-1.2 (1H, m), 1.2 (1H, br quintuplet), 1.9-2.0 (1H, m), 2.2 (1H, t), 2.6-2.8 (3H, m), 2.81 (3H, s), 2.9 (3H, s), 3.0 (1H, br s), 3.2-3.3 (2H, m), 3.4-3.6 (4H, m), 3.7 (1H, t), 3.8 (1H, dd), 4.8 (1H, dt), 5.0 (1H, br s), 5.5 (1H, d), 6.1 (2H, s), 6.9 (2H, d), 7.0 (1H, d), 7.15 (2H, d), 7.19 (1H, s), 7.22 (2H, br d); MS: 664 (MH+); C31H41N3O11S.

reactant | 4-{(2S,3R)-2-({[(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yloxy]carbonyl}amino)-4-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-3-hydroxybutyl}phenyl 4-nitrophenyl carbonate | 60 mg | C(OC1=CC=C(C=C1)C[C@@H]([C@@H](CN(CC(C)C)S(=O)(=O)C1=CC2=C(OCO2)C=C1)O)NC(=O)O[C@H]1CO[C@H]2OCC[C@H]21)(OC2=CC=C(C=C2)[N+](=O)[O-])=O | C35H39N3O14S
reactant | dimethylamine tetrahydrofuran | 2M, 0.5 mL | CNC.O1CCCC1
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | (3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-1-(4-{[(dimethylamino)carbonyl]oxy}benzyl)-2-hydroxypropylcarbamate | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)OC(=O)N(C)C)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C31H41N3O11S
